US07465731B2
To a solution of methyl (2E)-3-(5-chloro-2-pyrazinyl)acrylate (680 mg) in DMI (1.4 mL) was added tert-butyl (3R)-3-amino-1-pyrrolidinecarboxylate (957 mg) and K2CO3 (1.42 g), which was stirred at 120° C. for 2 hours. The reaction mixture was filtered and evaporated in vacuo. To the residue was added H2O, which was extracted with ethyl acetate. The organic layer was washed with brine, dried over Na2SO4, filtered, and evaporated in vacuo. The residue was purified by column chromatography on silica gel to give tert-butyl (3R)-3-({5-[(1E)-3-methoxy-3-oxo-1-propen-1-yl]-2-pyrazinyl}amino)-1-pyrrolidinecarboxylate (834 mg) as a off-white powder.

reactant | methyl (2E)-3-(5-chloro-2-pyrazinyl)acrylate | 680 mg | ClC=1N=CC(=NC1)/C=C/C(=O)OC | C8H7ClN2O2
reactant | tert-butyl (3R)-3-amino-1-pyrrolidinecarboxylate | 957 mg | N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | K2CO3 | 1.42 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMI | 1.4 mL | CN1CCN(C1=O)C | C5H10N2O
product | tert-butyl (3R)-3-({5-[(1E)-3-methoxy-3-oxo-1-propen-1-yl]-2-pyrazinyl}amino)-1-pyrrolidinecarboxylate | 834 mg | COC(/C=C/C=1N=CC(=NC1)N[C@H]1CN(CC1)C(=O)OC(C)(C)C)=O | C17H24N4O4
